reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2][O:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],27.390295870454608
[O:1]=[C:2]([C:3](=[C:4])[C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],4.635524836284105
[C:1]([N+:2]12[C@@:3]([H:11])([C-:4]1[H:12])[C:7]([H:16])=[C:6]([H:15])[C:5]2([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C@:3]2([H:11])[C:4]([H:12])([H:13])[C@@:5]1([H:14])[C:6]([H:15])=[C:7]2[H:16])([H:8])([H:9])[H:10],45.55830637777921
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[N:3]([C:4]([H:13])([H:14])[H:15])[C@:5]([C:7]([H:16])([H:17])[H:18])([H:10])[O:6]1,118.253906087132
[C:1](=[C:2]=[O:3])([H:8])[H:9].[H:7][H:11].[N:4](=[C:5]=[N:6][H:12])[H:10]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],46.6728094087328
[O:1]([C:2]([C:3](=[C:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],4.537001426509512
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[C:2](=[C:3]=[O:4])([H:10])[H:11],105.535821733506
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]([C:3](=[O:4])[H:12])([H:11])[C@:5]1([O:6][H:8])[N:7]([H:13])[H:14],81.8685491710358
[C:1]([C+:2]([C:3]([O:4][H:14])([H:12])[H:13])[N:5]([C-:6]([O:7][H:11])[H:16])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],5.187739745966994
[C:1]([O:2][O:5][C:4](=[C:3]([H:9])[H:10])[H:11])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],41.04073579029
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3][C:5]([H:15])([H:16])[H:17])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14],91.62840948066851
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([N+:5]#[C-:4])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],47.82573312731971
[O:1]=[C:2]([C@@:3]([C:4](=[C:5]([H:11])[H:12])[H:9])([O:6][H:10])[H:8])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],101.85814175421174
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([N+:5]#[C-:4])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],46.666986560398904
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]1([H:9])[C:2](=[O:3])[C:4]1=[C:5]=[C:6]=[N:7][H:8],85.1798493433604
[C:1]([O:2][C:3]1=[C+:7][C:6]([H:12])([H:13])[N:5]([H:11])[N-:4]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],1.3390008624809013
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:7](=[C:6])[H:15])[H:11])([H:8])([H:9])[H:10],59.0163012899358
[C:1]([C@@:2]1([H:11])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6][N:7]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.62766530909651
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([N+:7]#[C-:6])[H:11])([H:8])([H:9])[H:10],58.5194444611414
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],67.1071110694705
[C:1](=[C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])[H:10].[C:6](#[N:7])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],71.1163861249385
[C:1]([C:2]([N:3]([C:5]1=[N:6][C:4]1([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],75.18485484379983
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12],116.012185536516
[C:1]([O:2][C:5]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3](#[N:4])[C:6]([H:13])([H:14])[H:15]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],86.8669668291722
[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]1=[N:5][H:6],105.582286714594
